US06057358
2-(3,4-Dimethoxyphenyl)-N-methylethylamine (2.77 ml, 0.015 mol) and 2-bromoethanol (1.13 ml, 0.015 mol) were dissolved in N,N-dimethylformamide (10 ml). To the resulting solution, potassium iodide (2.45 g, 0.015 mol) was added, followed by stirring at 80° C. for 1.5 h. The reaction mixture was cooled to room temperature and, thereafter the solvent was evaporated under vacuum; after adding a saturated aqueous solution of sodium bicarbonate, three extractions were conducted with ethyl acetate. The organic layers were combined, dried with sodium sulfate and concentrated under vacuum. The residue was purified by being subjected to column chromatography on silica gel using a 9:1 solvent system of chloroform and methanol as an eluent and the fractions containing the end product were collected and the solvent was evaporated under vacuum, followed by drying to yield the end compound 2-[N-(3,4-dimethoxyphenethyl)-N-methylamino]ethanol (1.35 g) as an oil.

reactant | 2-(3,4-Dimethoxyphenyl)-N-methylethylamine | 0.015 mol, 2.77 ml | COC=1C=C(C=CC1OC)CCNC | C11H17NO2
reactant | 2-bromoethanol | 0.015 mol, 1.13 ml | BrCCO | C2H5BrO
reactant | potassium iodide | 0.015 mol, 2.45 g | [I-].[K+]
solvent | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | 2-[N-(3,4-dimethoxyphenethyl)-N-methylamino]ethanol | 1.35 g | COC=1C=C(CCN(C)CCO)C=CC1OC | C13H21NO3
